US08648068B2
XVIII.3 4-[4-Fluoro-2-(pyrrolidin-3-yloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester
To a stirred suspension of 4-[2-(1-tert-Butoxycarbonyl-pyrrolidin-3-yloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester (1.2 g) in MeOH (4.0 ml) was added HCl in dioxane (4N; 4.0 ml) dropwise. The reaction mixture was stirred for 8 h. The solvent was removed under reduced pressure. The residue was purified by chromatography.

reactant | 4-[2-(1-tert-Butoxycarbonyl-pyrrolidin-3-yloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester | 1.2 g | COC(=O)C1=C(C2=C(N=CN=C2NC2=C(C=C(C=C2)F)OC2CN(CC2)C(=O)OC(C)(C)C)S1)C | C24H27FN4O5S
reactant | HCl | Cl | ClH
solvent | MeOH | 4.0 ml | CO | CH4O
solvent | dioxane | 4N, 4.0 ml | O1CCOCC1 | C4H8O2
product | 4-[4-Fluoro-2-(pyrrolidin-3-yloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester | COC(=O)C1=C(C2=C(N=CN=C2NC2=C(C=C(C=C2)F)OC2CNCC2)S1)C | C19H19FN4O3S
